US04210661
Preparation of Benzyl 7-oxo-3-p-aminophenylthio-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate (Alternative Procedure)
A catalyst of 10% palladium on charcoal (Engelhard 4505, 50 mg) suspended in 90% aqueous ethanol (10 ml) was prehydrogenated for 20 minutes at room temperature/atmospheric pressure. Benzyl 7-oxo-3-p-nitrophenylthio-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate (50 mg) partially dissolved in ethanol (10 ml) was added, and the mixture was hydrogenated at room temperature and atmospheric pressure for 1.5 hours. The catalyst was removed by filtration through "High-Flo", and the colourless filtrate was evaporated to give an oil (35 mg) identical by TLC, u.v. and I.R. to the product (22) obtained in Example 7.

reactant | Benzyl 7-oxo-3-p-nitrophenylthio-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate | 50 mg | O=C1CC2CC(=C(N12)C(=O)OCC1=CC=CC=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C20H16N2O5S
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Benzyl 7-oxo-3-p-aminophenylthio-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate | 35 mg | O=C1CC2CC(=C(N12)C(=O)OCC1=CC=CC=C1)SC1=CC=C(C=C1)N | C20H18N2O3S
